US07282590B2
To a solution of 3-(2-mercaptophenyl)-3-methylbutanoic acid (227 mg) in aqueous THF was added 2,2′-dipyridyl disulfide (363 mg), and the mixture was stirred for 15 hours at 40° C. The reaction was quenched by 1 N hydrochloric acid. The reaction mixture was extracted by ethyl acetate at pH 1, and the extract was dried over anhydrous MgSO4 and concentrated in vacuo. The crude product was purified on a silica gel column to afford 252 mg (75% yield) of the 3-methyl-3-[2-(pyridine-2-yldisulfanyl)phenyl]butanoic acid product in the form of a light yellow solid: mp 122-125° C., 1H NMR (CDCl3, 300 MHz) δ (ppm): 1.67 (s, 6H), 3.32 (s, 2H), 7.11 (m, 1H), 7.17 (m, 2H), 7.38 (m, 1H), 7.5-7.6 (m, 2H), 7.80 (m, 1H), 8.44 (d, J=4.5 Hz, 1H), 10.52 (broad s, 1H).

reactant | 3-(2-mercaptophenyl)-3-methylbutanoic acid | 227 mg | SC1=C(C=CC=C1)C(CC(=O)O)(C)C | C11H14O2S
reactant | 2,2′-dipyridyl disulfide | 363 mg | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | THF | C1CCOC1 | C4H8O
product | 3-methyl-3-[2-(pyridine-2-yldisulfanyl)phenyl]butanoic acid | 252 mg, 75% yield | CC(CC(=O)O)(C)C1=C(C=CC=C1)SSC1=NC=CC=C1 | C16H17NO2S2
